US07282588B2
[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid
A heterogeneous mixture of [3-(4-nitrophenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid (31.0 mmol), elemental tin dust (5.30 mmol), 6.0N aqueous hydrochloric acid (5.3 mL) and absolute ethanol (5.3 mL) was stirred at 70° C. for 1 h. The solution was filtered through Celite and concentrated in vacuo. The resulting aniline was dissolved in anhydrous pyridine (10 mL) and phenyl isocyanate (11.17 mmol) added dropwise. The reaction mixture was stirred at room temperature for 4 h. After concentration in vacuo, purification by Gilson reverse phase HPLC afforded the title compound as a white solid (93%). ESMS [M+H]+: 453.2

reactant | [3-(4-nitrophenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid | 31.0 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)O | C18H13N5O4
reactant | tin | 5.30 mmol | [Sn] | Sn
reactant | hydrochloric acid | 6.0N, 5.3 mL | Cl | ClH
reactant | phenyl isocyanate | 11.17 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ethanol | 5.3 mL | C(C)O | C2H6O
product | [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid | 93% | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)O | C25H20N6O3
